Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS 
 
Major Surgical or Invasive Procedure:
None
 
 
History of Present Illness:
Ms. ___ is a ___ female with history of atrial
fibrillation on apixaban, HTN, HLD, glaucoma, CVA (presented 
with
aphasia that resolved, diagnosed at ___ ___ by
MRI brain) who presented as a transfer on ___ from ___ to ___ ED with AMS and lack of neurology coverage at
___. 

I obtained history first from the patient. She says she knows 
she
is in a hospital but doesn't know the name, because she was
recalls being brought to ___ by EMS yesterday and then
___ sent her here yesterday for some reason. She accuses
me of being a dummy when I asked her what year it is - she says
it's ___. She knows it's ___. I ask her to name the
days of the week backward, she recounts ___ and able
to name ___, ___ etc along with it. 

She says she doesn't know why she is here. SHe denies any pain 
or
discomfort anywhere. Denies any weakness, change in her voice,
change in any sensation, no headache, no dysuria, no chest pain,
dyspnea, abdominal pain, back or flank pain, no fever. 
She tells me she is upset with her friend, ___
son is ___ ___ who called EMS on her a week
ago and brought her to ___, when she did not want to go 
that
time. 

I next obtained history from ___ (who is also reportedly the
patient's alternate HCP per ___. He says on ___, the
patient had landscaping work scheduled for her house. He was 
with
her and she could not describe the nature of the landscaping
work, had to repeat words over and over. She had also went to 
put
flowers on her deceased daughter's grave and she couldn't
recognize her daughter's name that day. She also failed to
recognize ___ by face recognition or voice recognition - she
could say "oh, I know someone named ___ and describe him
accurately to ___ himself in the room only. She also kept
confusing hours with days. 
On that day, ___ she was brought to ___ and admitted
there, found to have temporal lobe infarct by MRI brain. By
___ she recovered almost entirely and had no recognized
deficits - all aphasia and confusion had resolved, according to
___. She was discharged home. 

She did well with ___, and ___ checking on her
throughout the week. However, on ___, she was angry and
agitated much of the evening, refusing her meds. THen on ___
in the morning, she did not answer phone calls or the door when
___ went to check on her at 10AM. She was found sitting on her
bed half asleep, groggy, lethargic, and not able to ambulate
well. SHe could recognize ___ but was not oriented. The ___ came
by and found temperature of ___. She was taken to ___. 

___ ___: 
MRI brain without contrast report indicates "new small focus of
restricted diffusion in the left occipital lobe not clearly seen
previously consistent with tiny new acute infarct. Most of the
previous identified abnormal restricted diffusion of the left
temporal lobe has resolved with a small amount of residual 
signal
here." 
She had rectal temp of ___. She had UA showing large leuks, 
>100
WBC, few bacteria.
CXR showed diffuse interstitial changes only.
Head CT showed no acute process.
RUQ US showed gallstones but unremarkable otherwise.
She was given IV CTX and 1L NS
She was then transferred to ___ due to lack of neurology
coverage.

___ ED: given another 1L NS.

 
Past Medical History:
atrial fibrillation on apixaban, HTN, HLD, glaucoma, CVA
(presented with aphasia that resolved, diagnosed at ___ ___ by MRI brain) 
 
Social History:
___
Family History:
SHe says she doesn't recall any parents having medical problems.
 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
CRANIAL NERVES: Visual fields are full to confrontation in all
quadrants bilaterally.  
Pupils are equally round at 3 mm and reactive to light.  
Extraocular movements are intact, with no ptosis.  
Sensation over the face is intact and equal bilaterally for
sharp, dull, and light touch stimuli. 
During mastication there is midline location of the jaw and 
equal
contraction and able to keep both eyes shut to resistance. 
Hearing is grossly intact bilaterally.   
The palate and uvula elevate symmetrically, with an intact gag
reflex bilaterally.  
Shoulder shrug is strong and equal bilaterally.  
Tongue protrudes midline and moves symmetrically with no
fasciculations.
SENSATION: Bilaterally intact and equal for pinprick, position,
and light touch in fingers, forearms, toes and thighs.
STRENGTH: Good muscle bulk and tone throughout all extremities.
There is no pronator drift of outstretched arms. Strength ___
bilaterally for deltoid, bicep, tricep, quadricep. Grip strength
___ bilaterally.
CEREBELLAR: Finger to nose intact bilaterally. 

_______________________________

DISCHARGE EXAM:

 
Pertinent Results:
___ 07:05AM BLOOD WBC-7.2 RBC-2.89* Hgb-10.0* Hct-30.7* 
MCV-106* MCH-34.6* MCHC-32.6 RDW-12.7 RDWSD-49.1* Plt ___
___ 02:33AM BLOOD WBC-8.8 RBC-2.53* Hgb-8.6* Hct-27.2* 
MCV-108* MCH-34.0* MCHC-31.6* RDW-12.6 RDWSD-49.1* Plt ___
___ 02:33AM BLOOD Neuts-77.4* Lymphs-13.1* Monos-8.5 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-6.80* AbsLymp-1.15* 
AbsMono-0.75 AbsEos-0.04 AbsBaso-0.02
___ 07:05AM BLOOD Glucose-104* UreaN-17 Creat-0.7 Na-142 
K-4.3 Cl-103 HCO3-28 AnGap-11
___ 09:50PM BLOOD Glucose-114* UreaN-20 Creat-0.7 Na-137 
K-4.4 Cl-101 HCO3-26 AnGap-10
___ 02:33AM BLOOD ALT-29 AST-46* AlkPhos-90 TotBili-0.7
___ 09:20AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:05AM BLOOD proBNP-606
___ 09:50PM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:50PM BLOOD Calcium-8.2* Phos-3.0 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of atrial
fibrillation on apixaban, HTN, HLD, glaucoma, CVA (presented 
with
aphasia that resolved, diagnosed at ___ ___ by
MRI brain) who presented as a transfer on ___ from ___ to ___ ED with AMS and lack of neurology coverage at
___.
 
#Metabolic encephalopathy (resolved)
#UTI
-No focal neurologic deficits were detected on patient arrival 
to our hospital. Oriented to person, place and time.
-MRI brain at ___ on ___ showed "new small focus of
restricted diffusion in the left occipital lobe not clearly seen
previously consistent with tiny new acute infarct. Most of the
previous identified abnormal restricted diffusion of the left
temporal lobe has resolved with a small amount of residual 
signal
here." This occipital infarct would not be enough to explain her
AMS. She most likely had recrudescence of stroke symptoms due to
UTI as the explanation of her AMS.
-She completed a three day course of CTX / cefpodox (last day 
___ for uncomplicated UTI. 

#Recent CVA and acute tiny new left occipital lobe infarct
-Continued home aspirin, apixaban, statin on admission. The 
neurology team recommended no changes and to follow-up with a 
neurologist near ___ after discharge.  

#HTN
-Continue home amlodipine

#Afib
-Continue home apixaban and amiodarone; her Amiodarone was 
decreased from 400mg PO BID to PO daily ___ as per her 
outpatient instructions.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 400 mg PO BID 
2. Apixaban 2.5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Magnesium Oxide 400 mg PO DAILY 
6. amLODIPine 2.5 mg PO DAILY 
7. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Amiodarone 400 mg PO DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Apixaban 2.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
8.  Magnesium Oxide 400 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metabolic encephalopathy
UTI
Acute CVA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had confusion and fever.

====================================
What happened at the hospital? 
====================================

-You were found to have a urinary tract infection. This 
infection caused your fever and confusion. Both of those 
problems went away with antibiotics to improve the infection.
-You were also found to have a new small stroke on imaging 
scans. The neurologist recommended that you continue to take the 
medicines you are  on here to help prevent future strokes.  

==================================================
It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___